2149-04-03 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2149-4-2**] 08:24 PM
 PICC LINE - START [**2149-4-2**] 08:49 PM
 ARTERIAL LINE - START [**2149-4-2**] 10:56 PM
 PA CATHETER - START [**2149-4-3**] 01:30 AM
 CORDIS/INTRODUCER - START [**2149-4-3**] 01:30 AM
 EKG - At [**2149-4-3**] 02:00 AM
 ULTRASOUND - At [**2149-4-3**] 03:45 AM
   renal u/s
   Allergies:
   Codeine
   Nausea/Vomiting
   Amoxicillin
   Nausea/Vomiting
   Blood-Group Specific Substance
   Unknown;
   Adhesive Tape (Topical)
   "tape absorbs i
   Last dose of Antibiotics:
   Infusions:
   Nitroprusside - 4 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2149-4-2**] 10:14 PM
   Morphine Sulfate - [**2149-4-2**] 10:43 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-3**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-3**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 81 (75 - 87) bpm
   BP: 146/61(86) {146/60(85) - 166/81(113)} mmHg
   RR: 13 (12 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 13 (11 - 13)mmHg
   PAP: (54 mmHg) / (28 mmHg)
   CO/CI (Fick): (5.3 L/min) / (3.2 L/min/m2)
   Mixed Venous O2% Sat: 66 - 84
   Total In:
                                                                     18 mL
                                                                    248 mL
   PO:
   TF:
   IVF:
                                                                     18 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                    305 mL
                                                                    147 mL
   Urine:
                                                                    105 mL
                                                                    147 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -288 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 832 (557 - 832) mL
   PS : 7 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.42/40/181/25/1
   Ve: 8.2 L/min
   PaO2 / FiO2: 302
   Physical Examination
   GENERAL: Middle-aged female sitting in bed with a BiPAP mask on, in
   respiratory distress.
   HEENT: NCAT. Sclera anicteric. PERRL.  BiPAP mask in place.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: RRR, [**4-5**] holosytolic murmur heard best at the apex.
   LUNGS: Difficulty speaking in full sentences, on BiPAP with accessory
   muscle use.  Crackles present to the mid lung field bilaterally.
   ABDOMEN: +BS, abdomen soft, NTND.  Well-healed scarn in her RLQ,
   transplant nontender.
   EXTREMITIES: No edema present. Left lower leg and ankle with cast in
   place.  Left brachial fistulae without thrill.
   SKIN: Excoriations on her back.
   PULSES:
   Right: Carotid 2+ DP 2+ PT 2+
   Left: Carotid 2+ DP 2+ PT 2+
   Labs / Radiology
   500 K/uL
   7.7 g/dL
   345 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.3 mEq/L
   49 mg/dL
   101 mEq/L
   135 mEq/L
   23.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2149-4-2**]  10:00 PM
                             [**2149-4-2**]  11:02 PM
                             [**2149-4-2**]  11:20 PM
                             [**2149-4-3**]  02:13 AM
                             [**2149-4-3**]  03:04 AM
                             [**2149-4-3**]  05:14 AM
   WBC
   10.1
   Hct
   23.6
   Plt
   500
   Cr
   2.4
   2.6
   TropT
   0.06
   0.06
   TCO2
   27
   25
   27
   27
   Glucose
   360
   345
   Other labs: PT / PTT / INR:13.3/26.3/1.1, CK / CKMB /
   Troponin-T:28//0.06, ALT / AST:122/54, Alk Phos / T Bili:443/0.3,
   Lactic Acid:1.8 mmol/L, LDH:179 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.9 mg/dL
   Assessment and Plan
   Ms [**Known lastname 11751**] is a 45 yo woman with pmh of DM1, CAD s/p CABG and PCI,
   ESRD s/p living-related kidney transplant in [**10-31**], and recent
   hospitalization for septic arthritis here with acute renal failure,
   acute diastolic heart failure with newly diagnosed severe MR and
   pulmonary hypertension.
   # PUMP/Acute diastolic heart failure/Mitral regurgitation/Dsypnea:
   The patient presented with worsening dyspnea, has crackles on exam, and
   TTE shows new severe mitral regurgitation and pulmonary hypertension.
   Her presentation is consistent with acute worsening of her mitral
   regurgiation.  Differential for acute mitral regurgitation includes
   ischemia, endocarditis, or chordal rupture.
   - Afterload reduction with nitroprusside (tried nitroglycerin, but did
   not work at max dose) for goal MAP < 80.  Will need to discuss on
   rounds tomorrow the use of nitroprusside in renal failure and need for
   monitoring for toxicity.
   - Lasix gtt for diuresis if her urine output doesn't improve with
   afterload reduction.
   - Holding metoprolol for now due to acute CHF.
   - Cardiac surgery aware, formal consult in the am.
   - Consider TEE for further evaluation and follow up blood cultures to
   look for evidence of endocarditis.
   - If she were to decomensate, IABP could be considered as a temporary
   hemodynamic support.
   # Acute renal failure/ s/p renal transplant:  The patient's creatinine
   rose after she was noted to have an undetectable tacrolimus level
   making acute rejection a possibility.  Also in the setting of acute
   heart failure is prerenal vs ATN from poor foward flow/hypoperfusion.
   - Appreciate renal consult.
   - Will send urine lytes, urine osm.
   - ultrasound of transplanted kidney with doppler
   - Per renal, will continue pulse steroids with hyhdrocortisone 100 mg
   IV q8h
   - Will add on tacroliums level tonight and send in the am.
   - NPO after midnight for possible biopsy
   - Per renal will increase her prograf to 4 mg po bid (she was given 3
   mg of tacrolimus liquid tonight as she was unable to tolerate pills due
   to her respiratory distress)
   - Continue bactrim prophylaxis.
   - Will hold gabapentin for now.
   - Patient was somewhat hyperkalemic, EKG was without changes.  Repeat K
   somewhat lower.  Will give a dose of kayexelate and trend potassium.
   # CORONARIES:  The patient has known coronary artery disease s/p CABG
   and PCI.  No current chest pain or EKG changes.
   - As above, will rule out for MI as a cause of worsening MR/heart
   failure.
   - Continue ASA 325 mg po daily and atorvastatin 40 mg po daily.
   - Holding metoprolol due to chf exacerbation.
   - Holding plavix for now in case she requires surgery to treat her
   mitral regurgitation.
   # RHYTHM: She is in sinus rhythm on EKG.
   - Monitor telemetry.
   # Recent septic arthritis of her left ankle:
   - Continue ceftazadine and vancomycin for her planned course (renally
   dosed).  Currently holding vancomycin as her level has been elvated and
   she was given a dose in the ED.
   - Check a vanc level in the am.
   - Pain control with hydromorphone 2 mg q3h prn.
   # Anemia:  The patient's Hct on admission was 27.9 (her recemt baseline
   is 25 to 27).  She had no clinical evidence of bleeding currently.
   Likely secondary to anemia of chronic disease.
   - Continue outpatient ferrous sulfate.
   - Active type and screen given possible procedures.
   - Trend Hct.
   # Diabetes:
   - Continue Lantus 18 units qhs and SSI with qid fingerstick monitoring.
   - Continue reglan for gastroparesis.
   # Depression:
   - Continue citalopram and bupropion.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2149-4-2**] 08:49 PM
   Arterial Line - [**2149-4-2**] 10:56 PM
   PA Catheter - [**2149-4-3**] 01:30 AM
   Cordis/Introducer - [**2149-4-3**] 01:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-04-04 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -started insulin gtt
   -gave Lasix 80 mg IV
   -Renal recs: lasix gtt, reduce hydrocortisone to 50 mg IV Q8H, continue
   Prograf 4 mg PO Q12H at 6 a.m. and 6 p.m.
   -Reduced hydrocortisone to 50 mg IV Q8H per renal recs
   -Renal U/S (prelim read): Normal RLQ transplant kidney w/o perinephric
   fluid collection or hydronephrosis. Normal arterial and venous
   waveforms.
   -Checked mixed venous sats, which were elevated to 90s, suggesting
   cyanide toxicity vs. intracardiac shunt. Lack of lactic acidosis argues
   against cyanide toxicity. Ordered echo to evaluate for shunt.
   -3 p.m. Hct 24.3 (stable from 23.6)
   -ID recs: no TEE for now, low threshold to get TEE if patient develops
   positive blood cultures or fever, continue vancomycin (renally dosed)
   -d/c'ed ceftazidime
   -blood sugars in 120s with insulin gtt at 1 units/hr; d/c'ed insulin
   drip; patient getting glargine + sliding scale
   -advanced diet
   -had long run of NSVT at around 5 a.m., Mg 1.8, repleted Mg in spite of
   renal failure
   Allergies:
   Codeine
   Nausea/Vomiting
   Amoxicillin
   Nausea/Vomiting
   Blood-Group Specific Substance
   Unknown;
   Adhesive Tape (Topical)
   "tape absorbs i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2149-4-3**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2149-4-3**] 08:50 PM
   Hydralazine - [**2149-4-4**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   This morning, pt compained of some nausea. No ECG changes, pt given
   some compazine. No CP. Dyspnea stable; overall improved from admission.
   Flowsheet Data as of  [**2149-4-4**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 98 (78 - 98) bpm
   BP: 143/57(85) {120/41(66) - 151/63(93)} mmHg
   RR: 13 (10 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 14 (5 - 18)mmHg
   PAP: (64 mmHg) / (29 mmHg)
   CO/CI (Thermodilution): (6.95 L/min) / (4.1 L/min/m2)
   CO/CI (Fick): (12 L/min) / (7.1 L/min/m2)
   SVR: 806 dynes*sec/cm5
   Mixed Venous O2% Sat: 77 - 95
   SV: 72 mL
   SVI: 43 mL/m2
   Total In:
                                                                  1,579 mL
                                                                    249 mL
   PO:
                                                                    660 mL
   TF:
   IVF:
                                                                    919 mL
                                                                    249 mL
   Blood products:
   Total out:
                                                                    784 mL
                                                                    220 mL
   Urine:
                                                                    784 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    795 mL
                                                                     29 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 441 (441 - 441) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 100%
   SpO2: 98%
   ABG: 7.50/32/108/23/2
   Ve: 8.6 L/min
   PaO2 / FiO2: 270
   Physical Examination
   GENERAL: Middle-aged female sitting in bed with a BiPAP mask on, in
   respiratory distress.
   HEENT: NCAT. Sclera anicteric. PERRL.  BiPAP mask in place.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: RRR, [**4-5**] holosytolic murmur heard best at the apex.
   LUNGS: Difficulty speaking in full sentences, on BiPAP with accessory
   muscle use.  Crackles present to the mid lung field bilaterally.
   ABDOMEN: +BS, abdomen soft, NTND.  Well-healed scarn in her RLQ,
   transplant nontender.
   EXTREMITIES: No edema present. Left lower leg and ankle with cast in
   place.  Left brachial fistulae without thrill.
   SKIN: Excoriations on her back.
   PULSES:
   Right: Carotid 2+ DP 2+ PT 2+
   Left: Carotid 2+ DP 2+ PT 2+
   Labs / Radiology
   483 K/uL
   8.0 g/dL
   110 mg/dL
   2.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   52 mg/dL
   99 mEq/L
   135 mEq/L
   25.3 %
   12.1 K/uL
        [image002.jpg]
                             [**2149-4-3**]  03:04 AM
                             [**2149-4-3**]  05:14 AM
                             [**2149-4-3**]  11:05 AM
                             [**2149-4-3**]  11:07 AM
                             [**2149-4-3**]  12:18 PM
                             [**2149-4-3**]  03:04 PM
                             [**2149-4-3**]  03:17 PM
                             [**2149-4-3**]  08:40 PM
                             [**2149-4-4**]  12:29 AM
                             [**2149-4-4**]  05:35 AM
   WBC
   10.1
   12.1
   Hct
   23.6
   21
   23
   24.3
   24
   25.3
   Plt
   500
   483
   Cr
   2.6
   2.7
   2.8
   TropT
   0.06
   TCO2
   27
   27
   27
   24
   26
   Glucose
   345
   98
   110
   Other labs: PT / PTT / INR:13.4/23.7/1.1, CK / CKMB /
   Troponin-T:28//0.06, ALT / AST:122/54, Alk Phos / T Bili:443/0.3,
   Differential-Neuts:94.4 %, Lymph:3.6 %, Mono:1.7 %, Eos:0.4 %, Lactic
   Acid:0.8 mmol/L, LDH:179 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:5.1
   mg/dL
   Assessment and Plan
   Ms [**Known lastname 11751**] is a 45 yo woman with pmh of DM1, CAD s/p CABG and PCI,
   ESRD s/p living-related kidney transplant in [**10-31**], and recent
   hospitalization for septic arthritis here with acute renal failure,
   acute diastolic heart failure with newly diagnosed severe MR and
   pulmonary hypertension.
   # Acute Diastolic Heart Failure/Mitral Regurgitation/Dsypnea:   The
   patient presented with worsening dyspnea, had crackles on exam, and TTE
   showing new severe mitral regurgitation and pulmonary hypertension
   all c/w acute mitral regurgiation.  Swan-Ganz catheter measurements
   initially showing PA htn and elevated wedge pressure, consistent with
   this finding.  Pt also noted to have abnormally high mixed venous O2
   sats, which could represent cyanide tox vs. shunt.
   - Continue hydralazine for afterload reducation
   - Lasix 100 mg [**Hospital1 **] with metolazone, per renal recs, for better
   diuresis.
   - Holding metoprolol for now due to acute CHF
   - CT [**Doctor First Name 458**] consult for mitral valve replacement
   - TEE with bubble study to evaluate mitral valve and to evaluate for
   ASD
   - IABP could be considered as a temporary hemodynamic support if
   decompensates
   - can likely pull Swan this afternoon
   # Acute renal failure/ s/p renal transplant:  The patient's creatinine
   rose after she was noted to have an undetectable tacrolimus level
   making acute rejection a possibility.  Also in the setting of acute
   heart failure is prerenal vs ATN from poor foward flow/hypoperfusion.
   U lytes more c/w pre-renal azotemia.  U/s of transplanted kidney WNL.
   - continue hyhdrocortisone 50 mg IV q8h
   - f/u tacrolimus level
   - continue tacrolimus 4 mg [**Hospital1 **]
   - continue bactrim prophylaxis.
   - holding gabapentin
   - [**Hospital1 **] lytes
   - appreciate any additional renal recs
   - diuresis as above
   # CORONARIES:  The patient has known coronary artery disease s/p CABG
   and PCI.  No current chest pain or EKG changes.
   - Continue ASA 325 mg po daily, plavix 75 mg daily, and atorvastatin 40
   mg po daily.
   - Holding metoprolol due to chf exacerbation.
   # RHYTHM: She is in sinus rhythm on EKG.
   - Monitor telemetry.
   # Recent septic arthritis of her left ankle:
   - per ID res, stopping ceftaz; will continue vanco
   - still holding vanc at this time, as vanc level still elevated
   - Pain control with hydromorphone 2 mg q3h prn.
   # Anemia:  The patient's Hct on admission was 27.9 (her recemt baseline
   is 25 to 27).  Hematocrit decreased to 23 yesterday; now stable at 25.
   No obvious bleeding.
   - Continue outpatient ferrous sulfate.
   - Active type and screen
   - [**Hospital1 **] Hct
   # Diabetes: Blood sugars better controlled at this time. Were elevated
   yesterday, likely related to stress dose steroids. Now off of insulin
   gtt.
   - continue home regimen of insulin
   - Continue reglan for gastroparesis.
   # Depression:
   - Continue citalopram and bupropion.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2149-4-2**] 08:49 PM
   Arterial Line - [**2149-4-2**] 10:56 PM
   PA Catheter - [**2149-4-3**] 01:30 AM
   Cordis/Introducer - [**2149-4-3**] 01:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Exam Above is incorrect/outdated. Correct physical exam as below:
   GENERAL: Alert; Lying in Bed; No acute distress. Nasal cannula in
   place.
   HEENT: NC/AT.
   NECK: Supple; no significant JVD noted.
   CARDIAC: RRR, [**4-5**] holosytolic murmur heard throughout, most notably at
   the apex.
   LUNGS: No respiratory difficulties. Bibasilar crackles noted, greated
   on the L.
   ABDOMEN: +BS, abdomen soft, non-distended. Some RUQ tenderness to
   palpation noted; no rebound or guarding.
   EXTREMITIES: No edema noted in the legs. Cast on LLE.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 9565**], MD
   on:[**2149-4-4**] 12:21 ------

2149-04-05 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2149-4-4**] 01:20 PM
 PA CATHETER - STOP [**2149-4-4**] 06:02 PM
   - prograf level elevated at 13.8
   - per renal recs, decreased prograf dose to 3mg; also recommended to
   check daily trough tacro level (ordered), communicate to on call renal
   fellow so can adjust.
   - tapering steroids: Hydrocort 25 TID on Fri/Sat. Change to pred 10 on
   Sunday (ordered)
   - Swan dc'd
   - Cordis kept.
   - TEE showed tethering pap muscle. Moderate to severe mitral
   regurgitation in setting of restrictive P1/P2 motion consistent with
   likely ischemic poterior papillary muscle dysfunction. Moderate
   pulmonary hypertenison.
   - Per CT [**Doctor First Name 458**], repeat TEE next week after aggresssive diuresis
   Allergies:
   Codeine
   Nausea/Vomiting
   Amoxicillin
   Nausea/Vomiting
   Blood-Group Specific Substance
   Unknown;
   Adhesive Tape (Topical)
   "tape absorbs i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2149-4-4**] 12:30 PM
   Hydralazine - [**2149-4-4**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-5**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 93 (87 - 105) bpm
   BP: 143/67(94) {103/39(62) - 149/67(94)} mmHg
   RR: 15 (9 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.7 kg (admission): 58.8 kg
   Height: 67 Inch
    CVP: 6 (1 - 11)mmHg
   PAP: (48 mmHg) / (22 mmHg)
   Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                    644 mL
                                                                     67 mL
   PO:
   TF:
   IVF:
                                                                    644 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    720 mL
                                                                     80 mL
   Urine:
                                                                    720 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -76 mL
                                                                    -13 mL
   Respiratory support
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   GENERAL: Alert; Lying in Bed; No acute distress. Nasal cannula in
   place.
   HEENT: NC/AT.
   NECK: Supple
   CARDIAC: RRR, [**4-5**] holosytolic murmur heard throughout, most notably at
   the apex.
   LUNGS: No respiratory difficulties. Bibasilar crackles noted, greater
   on the L.
   ABDOMEN: +BS, abdomen soft, NT/ND.
   EXTREMITIES: No edema noted in the legs. Cast on LLE.
   Labs / Radiology
   453 K/uL
   8.0 g/dL
   180
   3.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   61 mg/dL
   99 mEq/L
   135 mEq/L
   24.9
   9.8
        [image002.jpg]
                             [**2149-4-3**]  05:14 AM
                             [**2149-4-3**]  11:05 AM
                             [**2149-4-3**]  11:07 AM
                             [**2149-4-3**]  12:18 PM
                             [**2149-4-3**]  03:04 PM
                             [**2149-4-3**]  03:17 PM
                             [**2149-4-3**]  08:40 PM
                             [**2149-4-4**]  12:29 AM
                             [**2149-4-4**]  05:35 AM
                             [**2149-4-4**]  05:40 PM
   WBC
   12.1
   Hct
   21
   23
   24.3
   24
   25.3
   Plt
   483
   Cr
   2.7
   2.8
   3.4
   TCO2
   27
   27
   27
   24
   26
   Glucose
   98
   110
   Other labs: PT / PTT / INR:12.9/23.9/1.1, Ca++:9.3 mg/dL, Mg++:2.5
   mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
   Ms [**Known lastname 11751**] is a 45 yo woman with pmh of DM1, CAD s/p CABG and PCI,
   ESRD s/p living-related kidney transplant in [**10-31**], and recent
   hospitalization for septic arthritis here with acute renal failure,
   acute diastolic heart failure with newly diagnosed severe MR and
   pulmonary hypertension.
   # Acute Mitral Regurgitation:   The patient presented with worsening
   dyspnea, had crackles on exam, and TTE showing new severe mitral
   regurgitation and pulmonary hypertension
 all c/w acute mitral
   regurgiation.  Swan-Ganz catheter measurements initially showing PA htn
   and elevated wedge pressure, consistent with this finding.
   - Continue hydralazine for afterload reducation; transition to PO
   - F/u final TEE read
   - Lasix 100 mg [**Hospital1 **] with metolazone, per renal recs, for better
   diuresis.
   - d/w renal better options for diuresis, including CVVH
   - Holding metoprolol for now due to acute CHF
   - f/u CT [**Doctor First Name 458**] recs
   - IABP could be considered as a temporary hemodynamic support if
   decompensates
   # Acute renal failure/ s/p renal transplant:  The patient's creatinine
   rose after she was noted to have an undetectable tacrolimus level
   making acute rejection a possibility.  Also in the setting of acute
   heart failure is prerenal vs ATN from poor foward flow/hypoperfusion.
   U lytes more c/w pre-renal azotemia.  U/s of transplanted kidney WNL.
   Cr still rising.
   - continue steroid taper per renal recs
   - f/u tacrolimus level
   - continue tacrolimus 3 mg [**Hospital1 **]
   - continue bactrim prophylaxis.
   - holding gabapentin
   - [**Hospital1 **] lytes
   - appreciate any additional renal recs
   - diuresis as above
   # CORONARIES:  The patient has known coronary artery disease s/p CABG
   and PCI.  No current chest pain or EKG changes.
   - Continue ASA 325 mg po daily, plavix 75 mg daily, and atorvastatin 40
   mg po daily.
   - Holding metoprolol due to chf exacerbation.
   # RHYTHM: She is in sinus rhythm on EKG.
   - Monitor telemetry.
   # Recent septic arthritis of her left ankle:
   - per ID res, stopping ceftaz; will continue vanco
   - still holding vanc at this time, as vanc level still elevated
   - Pain control with hydromorphone 2 mg q3h prn.
   # Anemia:  The patient's Hct on admission was 27.9 (her recemt baseline
   is 25 to 27).  Hematocrit decreased to 23; now stable. No obvious
   bleeding.
   - Continue outpatient ferrous sulfate.
   - Active type and screen
   - [**Hospital1 **] Hct
   # Diabetes: Blood sugars better controlled at this time. Were elevated
   initially, likely related to stress dose steroids. Now off of insulin
   gtt.
   - continue home regimen of insulin
   - Continue reglan for gastroparesis.
   # Depression:
   - Continue citalopram and bupropion.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2149-4-2**] 08:49 PM
   Arterial Line - [**2149-4-2**] 10:56 PM
   Cordis/Introducer - [**2149-4-3**] 01:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Possible c/o to floor soon
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per dr [**Last Name (STitle) 11770**]
   nothing to add
   Physical Examination
   per dr [**Last Name (STitle) 11770**]
   nothing to add
   Medical Decision Making
   per dr [**Last Name (STitle) 11770**]
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Improving.
   severe MR - will ultimately require a repeat tee and likely cardiac
   surgery
   in the meantime need to assess renal issues  - awaiting hopeful
   improvement in acute renal injury
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **],MD
   on:[**2149-4-5**] 11:03 ------

2149-04-06 06:53:00 Physician Resident Progress Note
TITLE: PHYSICAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   - decrease prograf to 2 mg [**Hospital1 **] (starting with PM dose today) because
   level high
   - stopped lasix and metolazone, as urine lytes c/w pre-renal
   - renal looked at urine and saw hyaline casts (c/w dehydration) and
   muddy brown casts (c/w ATN)
   - changed hydralazine to PO
   - ID: 6 week course of vanc from day of explant, d/w ortho wound care
   for K ankle, daily vanc levels while renal fxn changing (redose if
   <15), weekly CBCs while on vanc, call ID when closed to d/c to arrange
   outpt abx
   - renal: increase lasix to 120 mg [**Hospital1 **] and metolazone to 10 mg [**Hospital1 **], if
   cr continues to rise, could consider renal bx
   - micro NGTD
   Allergies:
   Codeine
   Nausea/Vomiting
   Amoxicillin
   Nausea/Vomiting
   Blood-Group Specific Substance
   Unknown;
   Adhesive Tape (Topical)
   "tape absorbs i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-4-5**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2149-4-5**] 08:30 AM
   Furosemide (Lasix) - [**2149-4-5**] 08:30 AM
   Hydralazine - [**2149-4-5**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-6**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 97 (90 - 102) bpm
   BP: 168/69(107) {122/45(73) - 168/114(118)} mmHg
   RR: 7 (7 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59 kg (admission): 58.8 kg
   Height: 67 Inch
             Total In:
                                                                    640 mL
                                                                     68 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                    511 mL
                                                                    220 mL
   Urine:
                                                                    511 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    129 mL
                                                                   -152 mL
   Respiratory support
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   GENERAL: Alert; Lying in Bed; No acute distress. Nasal cannula in
   place.
   HEENT: NC/AT.
   NECK: Supple
   CARDIAC: RRR, [**4-5**] holosytolic murmur heard throughout, most notably at
   the apex.
   LUNGS: No respiratory difficulties. Bibasilar crackles noted, greater
   on the L.
   ABDOMEN: +BS, abdomen soft, NT/ND.
   EXTREMITIES: No edema noted in the legs. Cast on LLE.
   Labs / Radiology
   439 K/uL
   8.5 g/dL
   233 mg/dL
   4.1 mg/dL
   23 mEq/L
   3.5 mEq/L
   67 mg/dL
   97 mEq/L
   135 mEq/L
   26.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2149-4-3**]  12:18 PM
                             [**2149-4-3**]  03:04 PM
                             [**2149-4-3**]  03:17 PM
                             [**2149-4-3**]  08:40 PM
                             [**2149-4-4**]  12:29 AM
                             [**2149-4-4**]  05:35 AM
                             [**2149-4-4**]  05:40 PM
                             [**2149-4-5**]  06:27 AM
                             [**2149-4-5**]  03:10 PM
                             [**2149-4-6**]  03:06 AM
   WBC
   12.1
   9.8
   6.5
   Hct
   23
   24.3
   24
   25.3
   24.9
   26.2
   Plt
   483
   453
   439
   Cr
   2.7
   2.8
   3.4
   3.7
   4.1
   4.1
   TCO2
   27
   24
   26
   Glucose
   98
   110
   180
   160
   233
   Other labs: PT / PTT / INR:12.6/24.4/1.1, CK / CKMB /
   Troponin-T:28//0.06, ALT / AST:122/54, Alk Phos / T Bili:443/0.3,
   Differential-Neuts:85.8 %, Lymph:9.1 %, Mono:4.5 %, Eos:0.6 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:179 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   Ms [**Known lastname 11751**] is a 45 yo woman with pmh of DM1, CAD s/p CABG and PCI,
   ESRD s/p living-related kidney transplant in [**10-31**], and recent
   hospitalization for septic arthritis here with acute renal failure,
   acute diastolic heart failure with newly diagnosed severe MR and
   pulmonary hypertension.
   # Acute Mitral Regurgitation:   The patient presented with worsening
   dyspnea, had crackles on exam, and TTE showing new severe mitral
   regurgitation and pulmonary hypertension
 all c/w acute mitral
   regurgiation.  Swan-Ganz catheter measurements initially showing PA htn
   and elevated wedge pressure, consistent with this finding. This
   morning, patient has worsened systemic hypertension, increased SOB, and
   louder MR murmur.
   - restart IV hydralazine + nitro gtt for afterload reduction
   - consider nicardipine gtt
   - Lasix 120 mg IV with metolazone, followed by lasix gtt, for better
   diuresis.
   - Holding metoprolol for now due to acute CHF
   - f/u CT [**Doctor First Name 458**] recs
   - IABP could be considered as a temporary hemodynamic support if
   decompensates
   # Acute renal failure/ s/p renal transplant:  The patient's creatinine
   rose after she was noted to have an undetectable tacrolimus level
   making acute rejection a possibility.  Also in the setting of acute
   heart failure is prerenal vs ATN from poor foward flow/hypoperfusion.
   U lytes more c/w pre-renal azotemia.  U/s of transplanted kidney WNL.
   Cr still rising.
   - continue steroid taper per renal recs
   - f/u tacrolimus level
   - continue bactrim prophylaxis.
   - holding gabapentin
   - [**Hospital1 **] lytes
   - appreciate any additional renal recs
   - diuresis as above
   # CORONARIES:  The patient has known coronary artery disease s/p CABG
   and PCI.  No current chest pain or EKG changes, although ischemia is
   possible etiology of papillary muscle dysfunction.
   - Continue ASA 325 mg po daily, plavix 75 mg daily, and atorvastatin 40
   mg po daily.
   - Holding metoprolol due to chf exacerbation.
   # RHYTHM: She is in sinus rhythm on EKG.
   - Monitor telemetry.
   # Recent septic arthritis of her left ankle:
   - per ID res, stopping ceftaz; will continue vanco
   - still holding vanc at this time, as vanc level still elevated
   - Pain control with hydromorphone 2 mg q3h prn.
   # Anemia:  The patient's Hct on admission was 27.9 (her recemt baseline
   is 25 to 27).  Hematocrit decreased to 23; now stable. No obvious
   bleeding.
   - Continue outpatient ferrous sulfate.
   - Active type and screen
   - [**Hospital1 **] Hct
   # Diabetes: Blood sugars better controlled at this time. Were elevated
   initially, likely related to stress dose steroids. Now off of insulin
   gtt.
   - continue home regimen of insulin
   - Continue reglan for gastroparesis.
   # Depression:
   - Continue citalopram and bupropion.
   ICU Care
   Nutrition: Renal, diabetic, low-sodium diet with 1200 cc fluid
   restriction
   Glycemic Control:  insulin sliding scale
   Lines:
   PICC Line - [**2149-4-2**] 08:49 PM
   Arterial Line - [**2149-4-2**] 10:56 PM
   Cordis/Introducer - [**2149-4-3**] 01:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU

2149-04-07 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -renal recs: check CXR, if volume overloaded, start metolazone 10 mg
   [**Hospital1 **] + Lasix 120 mg IV x 1 put out 200-300cc then started Lasix gtt,
   required K+ repletions during day.
   She was HTN, with SBP in 160s-170s, so hydralazine IV restarted then
   subsequently changed from Q6 to Q4 schedule, and nifedipine CR 30
   given, with nitro drip eventually added y/d pm which reduced her BPs to
   150s to 160s and now in 140s this am.
   -BP still elevated despite increase in hydralazine frequency and first
   dose of nifedipine; gave second dose of nifedipine CR 30 mg once
   -nitro drip increased to 4.0 mg/kg/min, with decrease in BP to 120s/50s
   -ordered RUE U/S due to RUE edema; wet read negative
   -held p.m. dose of tacrolimus per renal recs
   Allergies:
   Codeine
   Nausea/Vomiting
   Amoxicillin
   Nausea/Vomiting
   Blood-Group Specific Substance
   Unknown;
   Adhesive Tape (Topical)
   "tape absorbs i
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2149-4-6**] 09:50 AM
   Heparin Sodium (Prophylaxis) - [**2149-4-6**] 10:38 PM
   Hydralazine - [**2149-4-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-7**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 108 (99 - 113) bpm
   BP: 137/57(84) {117/51(72) - 172/75(111)} mmHg
   RR: 7 (5 - 24) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.8 kg (admission): 58.8 kg
   Height: 67 Inch
             Total In:
                                                                  1,524 mL
                                                                    523 mL
   PO:
                                                                    690 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    834 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                  2,557 mL
                                                                    675 mL
   Urine:
                                                                  2,557 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,033 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: 7.43/33/104/23/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   460 K/uL
   8.0 g/dL
   140 mg/dL
   3.8 mg/dL
   23 mEq/L
   3.6 mEq/L
   64 mg/dL
   98 mEq/L
   135 mEq/L
   24.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2149-4-3**]  08:40 PM
                             [**2149-4-4**]  12:29 AM
                             [**2149-4-4**]  05:35 AM
                             [**2149-4-4**]  05:40 PM
                             [**2149-4-5**]  06:27 AM
                             [**2149-4-5**]  03:10 PM
                             [**2149-4-6**]  03:06 AM
                             [**2149-4-6**]  08:44 AM
                             [**2149-4-6**]  03:00 PM
                             [**2149-4-7**]  06:15 AM
   WBC
   12.1
   9.8
   6.5
   6.9
   Hct
   24
   25.3
   24.9
   26.2
   24.9
   Plt
   483
   453
   439
   460
   Cr
   2.8
   3.4
   3.7
   4.1
   4.1
   3.8
   TCO2
   24
   26
   23
   Glucose
   110
   180
   160
   233
   140
   Other labs: PT / PTT / INR:12.6/24.4/1.1, CK / CKMB /
   Troponin-T:28//0.06, ALT / AST:122/54, Alk Phos / T Bili:443/0.3,
   Differential-Neuts:85.8 %, Lymph:9.1 %, Mono:4.5 %, Eos:0.6 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.0 g/dL, LDH:179 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Assessment and Plan
   Ms [**Known lastname 11751**] is a 45 yo woman with pmh of DM1, CAD s/p CABG and PCI,
   ESRD s/p living-related kidney transplant in [**10-31**], and recent
   hospitalization for septic arthritis here with acute renal failure,
   acute diastolic heart failure with newly diagnosed severe MR and
   pulmonary hypertension.
   # Acute Mitral Regurgitation:   The patient presented with worsening
   dyspnea, had crackles on exam, and TTE showing new severe mitral
   regurgitation and pulmonary hypertension
 all c/w acute mitral
   regurgiation.  Swan-Ganz catheter measurements initially showing PA htn
   and elevated wedge pressure, consistent with this finding. This
   morning, patient has worsened systemic hypertension, increased SOB, and
   louder MR murmur.
   - restart IV hydralazine + nitro gtt for afterload reduction
   - consider nicardipine gtt
   - Lasix 120 mg IV with metolazone, followed by lasix gtt, for better
   diuresis.
   - Holding metoprolol for now due to acute CHF
   - f/u CT [**Doctor First Name 458**] recs
   - IABP could be considered as a temporary hemodynamic support if
   decompensates
   # Acute renal failure/ s/p renal transplant:  The patient's creatinine
   rose after she was noted to have an undetectable tacrolimus level
   making acute rejection a possibility.  Also in the setting of acute
   heart failure is prerenal vs ATN from poor foward flow/hypoperfusion.
   U lytes more c/w pre-renal azotemia.  U/s of transplanted kidney WNL.
   Cr still rising.
   - continue steroid taper per renal recs
   - f/u tacrolimus level
   - continue bactrim prophylaxis.
   - holding gabapentin
   - [**Hospital1 **] lytes
   - appreciate any additional renal recs
   - diuresis as above
   # CORONARIES:  The patient has known coronary artery disease s/p CABG
   and PCI.  No current chest pain or EKG changes, although ischemia is
   possible etiology of papillary muscle dysfunction.
   - Continue ASA 325 mg po daily, plavix 75 mg daily, and atorvastatin 40
   mg po daily.
   - Holding metoprolol due to chf exacerbation.
   # RHYTHM: She is in sinus rhythm on EKG.
   - Monitor telemetry.
   # Recent septic arthritis of her left ankle:
   6 week course of vanc from day of explant, d/w ortho wound care for K
   ankle, daily vanc levels while renal fxn changing (redose if <15),
   weekly CBCs while on vanc, call ID when closed to d/c to arrange outpt
   abx
   - per ID res, stopping ceftaz; will continue vanco
   - still holding vanc at this time, as vanc level still elevated
   - Pain control with hydromorphone 2 mg q3h prn.
   # Anemia:  The patient's Hct on admission was 27.9 (her recemt baseline
   is 25 to 27).  Hematocrit decreased to 23; now stable. No obvious
   bleeding.
   - Continue outpatient ferrous sulfate.
   - Active type and screen
   - [**Hospital1 **] Hct
   # Diabetes: Blood sugars better controlled at this time. Were elevated
   initially, likely related to stress dose steroids. Now off of insulin
   gtt.
   - continue home regimen of insulin
   - Continue reglan for gastroparesis.
   # Depression:
   - Continue citalopram and bupropion.
   ICU Care
   Nutrition: Renal, diabetic, low-sodium diet with 1200 cc fluid
   restriction
   Glycemic Control:  insulin sliding scale
   Lines:
   PICC Line - [**2149-4-2**] 08:49 PM
   Arterial Line - [**2149-4-2**] 10:56 PM
   Cordis/Introducer - [**2149-4-3**] 01:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2149-4-2**] 08:49 PM
   Arterial Line - [**2149-4-2**] 10:56 PM
   Cordis/Introducer - [**2149-4-3**] 01:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-04-08 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-7**]
   - Started on standing nifedipine 60 CR, labetolol 100mg [**Hospital1 **] with nitro
   weaned from 3.4 to 2.0 but BP's crept up so uptitrated labetolol to
   200TID, metolazone 10 given.
   - Diuresing 200cc/hr.
   - renal recs:Cr turning around, hold biopsy,change IV meds to p.o.
   - Tacro level 5.9
   - Ortho consulted with recs not consistent with infection but sutures
   still in. Get 3 view of ankle because she had missed o/p follow up and
   is for f/u purposes only. Ortho will return to remove sutures post
   3view (done last night)
   - Tacro level 5.9. Dose kept at 2mg Q12
   [**4-8**]
   - Off nitro.
   - Dilaudid for leg pain
   - Ankle film done
   - ortho to remove sutures later today
   Allergies:
   Codeine
   Nausea/Vomiting
   Amoxicillin
   Nausea/Vomiting
   Blood-Group Specific Substance
   Unknown;
   Adhesive Tape (Topical)
   "tape absorbs i
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-4-7**] 10:00 PM
   Hydralazine - [**2149-4-8**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-8**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 98 (94 - 115) bpm
   BP: 145/60(87) {109/46(67) - 159/64(96)} mmHg
   RR: 11 (7 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.7 kg (admission): 58.8 kg
   Height: 67 Inch
             Total In:
                                                                  1,546 mL
                                                                    355 mL
   PO:
                                                                    300 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,246 mL
                                                                    325 mL
   Blood products:
   Total out:
                                                                  4,665 mL
                                                                  2,130 mL
   Urine:
                                                                  4,665 mL
                                                                  2,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,119 mL
                                                                 -1,774 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.47/42/86.[**Numeric Identifier 96**]/31/6
   Physical Examination
   GENERAL: Alert; Lying in Bed; No acute distress. Nasal cannula in
   place.
   HEENT: NC/AT.
   NECK: Supple
   CARDIAC: RRR, [**4-5**] holosytolic murmur heard throughout, most notably at
   the apex.
   LUNGS: No respiratory difficulties. Scattered crackles.
   ABDOMEN: +BS, abdomen soft, ND. Some slight TTP. No rebound or
   guarding. No masses appreciated.
   EXTREMITIES: No edema noted in the legs. Cast on LLE.
   Labs / Radiology
   438 K/uL
   8.3 g/dL
   164 mg/dL
   2.4 mg/dL
   31 mEq/L
   4.5 mEq/L
   53 mg/dL
   97 mEq/L
   136 mEq/L
   25.9 %
   5.7 K/uL
        [image002.jpg]
                             [**2149-4-4**]  05:40 PM
                             [**2149-4-5**]  06:27 AM
                             [**2149-4-5**]  03:10 PM
                             [**2149-4-6**]  03:06 AM
                             [**2149-4-6**]  08:44 AM
                             [**2149-4-6**]  03:00 PM
                             [**2149-4-7**]  06:15 AM
                             [**2149-4-7**]  02:41 PM
                             [**2149-4-8**]  05:30 AM
                             [**2149-4-8**]  05:52 AM
   WBC
   9.8
   6.5
   6.9
   5.7
   Hct
   24.9
   26.2
   24.9
   25.9
   Plt
   453
   439
   460
   438
   Cr
   3.4
   3.7
   4.1
   4.1
   3.8
   3.4
   2.9
   2.4
   TCO2
   23
   31
   Glucose
   180
   160
   233
   140
   272
   169
   164
   Other labs: PT / PTT / INR:12.6/24.4/1.1, CK / CKMB /
   Troponin-T:28//0.06, ALT / AST:122/54, Alk Phos / T Bili:443/0.3,
   Differential-Neuts:85.8 %, Lymph:9.1 %, Mono:4.5 %, Eos:0.6 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:179 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Ms [**Known lastname 11751**] is a 45 yo woman with pmh of DM1, CAD s/p CABG and PCI,
   ESRD s/p living-related kidney transplant in [**10-31**], and recent
   hospitalization for septic arthritis here with acute renal failure,
   acute diastolic heart failure with newly diagnosed severe MR and
   pulmonary hypertension.
   # Acute Mitral Regurgitation:   The patient presented with worsening
   dyspnea, had crackles on exam, and TTE showing new severe mitral
   regurgitation and pulmonary hypertension
 all c/w acute mitral
   regurgiation.  Swan-Ganz catheter measurements initially showing PA htn
   and elevated wedge pressure, consistent with this finding. Pt currently
   on IV hydral, nitro gtt, nifedipine, and labetalol for afterload
   reduction.  Noted to be more hypertensive this AM than has been.
   - continue hydral, nifedipine; increase labetalol to 400 TID
   - attempt to wean nitro gtt if possible
   - holding lasix gtt as pt is diuresing well this morning; will recheck
   I/O this PM
   - Holding metoprolol for now due to acute CHF
   - f/u CT [**Doctor First Name 458**] recs
   - IABP could be considered as a temporary hemodynamic support if
   decompensates
   # Acute renal failure/ s/p renal transplant:  The patient's creatinine
   rose after she was noted to have an undetectable tacrolimus level
   making acute rejection a possibility.  Also in the setting of acute
   heart failure is prerenal vs ATN from poor foward flow/hypoperfusion.
   U lytes more c/w pre-renal azotemia.  U/s of transplanted kidney WNL.
   Cr improving today.
   - continue steroid taper per renal recs
   - f/u tacrolimus level
   - continue bactrim prophylaxis.
   - holding gabapentin
   - [**Hospital1 **] lytes
   - appreciate any additional renal recs
   - diuresis as above
   # CORONARIES:  The patient has known coronary artery disease s/p CABG
   and PCI.  No current chest pain or EKG changes, although ischemia is
   possible etiology of papillary muscle dysfunction.
   - Continue ASA 325 mg po daily, plavix 75 mg daily, and atorvastatin 40
   mg po daily.
   - Holding metoprolol due to chf exacerbation.
   # RHYTHM: She is in sinus rhythm on EKG.
   - Monitor telemetry.
   # Recent septic arthritis of her left ankle:  Per ortho recs, 6 week
   course of vanc from day of explant, d/w ortho wound care for K ankle,
   daily vanc levels while renal fxn changing (redose if <15), weekly CBCs
   while on vanc, call ID when closed to d/c to arrange outpt abx
   - continue vanco; redosing this morning as level is 12
   - Pain control with hydromorphone 2 mg q3h prn.
   # Anemia:  The patient's Hct on admission was 27.9 (her recent baseline
   is 25 to 27).  Hematocrit stable. No obvious bleeding.
   - Continue outpatient ferrous sulfate.
   - Active type and screen
   - continue to trend Hct
   # Diabetes: Blood sugars better controlled at this time. Were elevated
   initially, likely related to stress dose steroids. Now off of insulin
   gtt.
   - continue home regimen of insulin
   - Continue reglan for gastroparesis.
   # Depression:
   - Continue citalopram and bupropion.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2149-4-2**] 08:49 PM
   Arterial Line - [**2149-4-2**] 10:56 PM
   Cordis/Introducer - [**2149-4-3**] 01:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per Dr [**Last Name (STitle) **]
   nothing to add
   Physical Examination
   Per Dr [**Last Name (STitle) **]
   nothing to add
   Medical Decision Making
   Per Dr [**Last Name (STitle) **]
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 50 minutes.
   Additional comments:
   Major issue remains need for tight blood pressure control to limit the
   likelihood of recurrent MR
   will increase labetalol right now
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **],MD
   on:[**2149-4-8**] 12:38 ------

2149-04-09 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tacrolimus increased to 3 [**Hospital1 **]
   - lasix gtt changed to IV bolus [**Hospital1 **] with 5 mg metolazone (per renal
   recs).
    Nitro drip was dc'd.
   BP's in the 150s
   - uptitrated labetalol to 400 TID
   - increased nifedipine to 90 mg daily
   -currently in the 140s.
   Vanc level came back <15, received vanc.
   - got a dose of vanc.
   Continued to be hyperglycemic:
   Ankle films looked ok, ortho removed sutures, and signed off,
   requesting f/u in [**3-5**] weeks.
   - ankle films showed:
   1. Postoperative change at the distal fibula.
   2. Persistent destruction of medial malleolus fracture with adjacent
   cortical irregularity compatible with prior debridement, but residual
   infection is not excluded.
   3. Subtle increase in density at the posterior aspect of the calcaneus
   raises possibility of insufficiency fracture. Clinical
   Allergies:
   Codeine
   Nausea/Vomiting
   Amoxicillin
   Nausea/Vomiting
   Blood-Group Specific Substance
   Unknown;
   Adhesive Tape (Topical)
   "tape absorbs i
   Last dose of Antibiotics:
   Vancomycin - [**2149-4-8**] 11:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-4-8**] 10:31 PM
   Hydralazine - [**2149-4-9**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-9**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 86 (83 - 98) bpm
   BP: 143/62(89) {101/46(65) - 161/65(95)} mmHg
   RR: 10 (8 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 58.8 kg
   Height: 67 Inch
             Total In:
                                                                  2,081 mL
                                                                    362 mL
   PO:
                                                                  1,120 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    961 mL
                                                                    212 mL
   Blood products:
   Total out:
                                                                  4,560 mL
                                                                    950 mL
   Urine:
                                                                  4,560 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,479 mL
                                                                   -588 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   Drowsy, arousable
   A0 to Person and place, disoriented to time
   III/VI SEM heard best at apex, stable
   CTA-B
   +bs, soft, nt, nd, no masses
   Ext, wwp, able to move extremities. Left leg in brace
   No edema, wwp, 1+ distal pulses
   [**3-7**] muscle strength BUE/BLE.
   Labs / Radiology
   438 K/uL
   8.3 g/dL
   383 mg/dL
   2.4 mg/dL
   31 mEq/L
   4.5 mEq/L
   53 mg/dL
   97 mEq/L
   135 mEq/L
   25.9 %
   5.7 K/uL
        [image002.jpg]
                             [**2149-4-5**]  06:27 AM
                             [**2149-4-5**]  03:10 PM
                             [**2149-4-6**]  03:06 AM
                             [**2149-4-6**]  08:44 AM
                             [**2149-4-6**]  03:00 PM
                             [**2149-4-7**]  06:15 AM
                             [**2149-4-7**]  02:41 PM
                             [**2149-4-8**]  05:30 AM
                             [**2149-4-8**]  05:52 AM
                             [**2149-4-8**]  10:24 PM
   WBC
   9.8
   6.5
   6.9
   5.7
   Hct
   24.9
   26.2
   24.9
   25.9
   Plt
   453
   439
   460
   438
   Cr
   3.7
   4.1
   4.1
   3.8
   3.4
   2.9
   2.4
   TCO2
   23
   31
   Glucose
   180
   160
   233
   140
   272
   169
   164
   383
   Other labs: PT / PTT / INR:12.6/24.4/1.1, CK / CKMB /
   Troponin-T:28//0.06, ALT / AST:122/54, Alk Phos / T Bili:443/0.3,
   Differential-Neuts:85.8 %, Lymph:9.1 %, Mono:4.5 %, Eos:0.6 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:179 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 ALTERATION IN NUTRITION
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Ms [**Known lastname 11751**] is a 45 yo woman with pmh of DM1, CAD s/p CABG and PCI,
   ESRD s/p living-related kidney transplant in [**10-31**], and recent
   hospitalization for septic arthritis here with acute renal failure,
   acute diastolic heart failure with newly diagnosed severe MR and
   pulmonary hypertension.
   # Acute Mitral Regurgitation:   The patient presented with worsening
   dyspnea, had crackles on exam, and TTE showing new severe mitral
   regurgitation and pulmonary hypertension
 all c/w acute mitral
   regurgiation. ? If this is ischemic in nature. Swan-Ganz catheter
   measurements initially showing PA htn and elevated wedge pressure,
   consistent with this finding. Had initially been on nitro drip which
   has been dc
d as has lasix gtt with patient now on IV boluses.  Pt
   currently on IV hydral, nifedipine, and labetalol for afterload
   reduction. HR is also noted to be in the 90s
   -would consider uptitrating labetolol further given both alpha/beta
   effects for HR/BP control.
   -continue nifedipine at 90 CR for now.
   - continue IV hydral for now.
   - continue IV boluses lasix (started on 80 IV BID 3pm with UOP 1.5L)
   -- Holding metoprolol for now due to acute CHF
   - f/u CT [**Doctor First Name 458**] recs
   - IABP could be considered as a temporary hemodynamic support if
   decompensates
   # Acute renal failure/ s/p renal transplant:  The patient's creatinine
   rose after she was noted to have an undetectable tacrolimus level
   making acute rejection a possibility.  Also in the setting of acute
   heart failure is prerenal vs ATN from poor foward flow/hypoperfusion.
   U lytes more c/w pre-renal azotemia.  U/s of transplanted kidney WNL.
   Cr  continues to improve from 4.1 at peak to ******
   -dose prograf by level per renal. Currently at 3mg prograf
   -f/u prograf level, bactrim prophylaxis
    Was switched from 25 hydrocortisone to 10 pred on Sunday.
   ? continue to taper? Discuss with renal
   continue bactrim prophylaxis
   - [**Hospital1 **] lytes.
   - holding gabapentin
   - appreciate any additional renal recs
   - diuresis as above
   # CORONARIES:  The patient has known coronary artery disease s/p CABG
   and PCI.  No current chest pain or EKG changes, although ischemia is
   possible etiology of papillary muscle dysfunction.
   - Continue ASA 325 mg po daily, plavix 75 mg daily, and atorvastatin 40
   mg po daily.
   - Holding metoprolol due to chf exacerbation.
   # RHYTHM: She is in sinus rhythm on telemetry.
   - Monitor telemetry.
   # Recent septic arthritis of her left ankle:  Per ortho recs, 6 week
   course of vanc from day of explant, d/w ortho wound care for K ankle,
   daily vanc levels while renal fxn changing (redose if <15), weekly CBCs
   while on vanc, call ID when closed to d/c to arrange outpt abx0
   -f/u vanc level at 11am today, dose for level <15.
   - Pain control with hydromorphone 2 mg q3h prn.
   .
   # Anemia:  Hx anemia of chronic disease. The patient's Hct on admission
   was 27.9 (her recent baseline is 25 to 27).  Hematocrit 23.8 today from
   25.9 y/d. RDW stable at 16.  No obvious bleeding.
   - Continue outpatient ferrous sulfate.
   -guiac all stools.
   - Active type and screen
   - [**Hospital1 **] HCT today.
   # Diabetes: Blood sugars ranged 92 to 423 over last 24 hours. Were
   elevated initially, likely related to stress dose steroids. Now off of
   insulin gtt.
   Home glargine dose 18U. Currently on 24.
   Pt has intermittent severe nausea with decreased appetite with blood
   sugars in the 90s. When nausea controlled and pt eats, blood sugars in
   high 300s-400s. Nausea controlled o/n y/d with GFS 423. Needed Insulin
   SC 15 last night.
   Control nausea, if controlled consider increasing glargine from 24 to
   28 U.
   -Continue RISS, GFS
   - Continue reglan for gastroparesis.
   .
   # Depression:
   - Continue citalopram and bupropion.
   ICU Care
   Nutrition: renal, diabetic, heart healthy, low sodium diet.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2149-4-2**] 08:49 PM
   Arterial Line - [**2149-4-2**] 10:56 PM
   Cordis/Introducer - [**2149-4-3**] 01:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Pt, mother.
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2149-04-10 06:59:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -increased prograf to 4 mg [**Hospital1 **]
   -hydralazine changed to PO
   -labetolol increased to 600 TID
   -renal recs: 1. if needed, could titrate labetalol further, 2. increase
   tacro to 4 [**Hospital1 **], 3. change hydral to PO, 4. wait to decrease prednisone
   until tacro stable in [**6-7**] range
   -ortho recs: wet-to-dry dressings [**Hospital1 **]
   -cardiac surgery recs: Will need cardiac cath, dental clerance, carotid
   U/S
   -echo unchanged
   -10:30 p.m., glucose 463, gave insulin 12 units and checked lytes
   (anion gap not elevated)
   -3 a.m., glucose 207, gave insulin 4 units
   -6 a.m., glucose 62, gave [**Location (un) 184**] juice and crackers
   Allergies:
   Codeine
   Nausea/Vomiting
   Amoxicillin
   Nausea/Vomiting
   Blood-Group Specific Substance
   Unknown;
   Adhesive Tape (Topical)
   "tape absorbs i
   Last dose of Antibiotics:
   Vancomycin - [**2149-4-8**] 11:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-4-9**] 08:00 AM
   Hydralazine - [**2149-4-9**] 08:00 AM
   Furosemide (Lasix) - [**2149-4-9**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-10**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 85 (81 - 96) bpm
   BP: 131/59(84) {100/41(60) - 156/68(95)} mmHg
   RR: 12 (9 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.1 kg (admission): 58.8 kg
   Height: 67 Inch
             Total In:
                                                                  1,750 mL
                                                                    127 mL
   PO:
                                                                  1,260 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    490 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  3,045 mL
                                                                  1,330 mL
   Urine:
                                                                  3,045 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,295 mL
                                                                 -1,203 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   Gen: Drowsy, arousable, NAD.
   Resp: Decreased breath sounds at right base.
   CV: RRR. Normal s1, s2. III/VI holosystolic murmur at apex.
   Abd: +BS. Soft. NT/ND.
   Ext: WWP, able to move extremities. Left leg in brace. No edema.
   Neuro: Answers questions appropriately. Pupils equal and non-reactive.
   Left ptosis.
   Labs / Radiology
   393 K/uL
   7.5 g/dL
   62 mg/dL
   1.9 mg/dL
   36 mEq/L
   3.7 mEq/L
   49 mg/dL
   93 mEq/L
   136 mEq/L
   22.9 %
   5.2 K/uL
        [image002.jpg]
                             [**2149-4-6**]  03:00 PM
                             [**2149-4-7**]  06:15 AM
                             [**2149-4-7**]  02:41 PM
                             [**2149-4-8**]  05:30 AM
                             [**2149-4-8**]  05:52 AM
                             [**2149-4-8**]  10:24 PM
                             [**2149-4-9**]  06:00 AM
                             [**2149-4-9**]  06:10 PM
                             [**2149-4-9**]  09:53 PM
                             [**2149-4-10**]  05:47 AM
   WBC
   6.9
   5.7
   5.0
   5.2
   Hct
   24.9
   25.9
   23.8
   22.9
   Plt
   460
   438
   436
   393
   Cr
   3.8
   3.4
   2.9
   2.4
   2.0
   2.0
   1.9
   TCO2
   31
   Glucose
   140
   272
   169
   164
   383
   123
   429
   62
   Other labs: PT / PTT / INR:12.2/25.1/1.0, CK / CKMB /
   Troponin-T:28//0.06, ALT / AST:122/54, Alk Phos / T Bili:443/0.3,
   Differential-Neuts:73.0 %, Lymph:17.5 %, Mono:4.5 %, Eos:4.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:179 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Ms [**Known lastname 11751**] is a 45 yo woman with pmh of DM1, CAD s/p CABG and PCI,
   ESRD s/p living-related kidney transplant in [**10-31**], and recent
   hospitalization for septic arthritis here with acute renal failure,
   acute diastolic heart failure with newly diagnosed severe MR and
   pulmonary hypertension.
   .
   # Acute Mitral Regurgitation:  The patient presented with worsening
   dyspnea, had crackles on exam, and TTE showing new severe mitral
   regurgitation and pulmonary hypertension
 all c/w acute mitral
   regurgiation. ? If this is ischemic in nature. Swan-Ganz catheter
   measurements initially showing PA htn and elevated wedge pressure,
   consistent with this finding. Had initially been on nitro drip which
   has been dc
d as has lasix gtt with patient now on IV boluses.  Pt
   currently on PO hydralazine, nifedipine, and labetalol for afterload
   reduction.
   -continue hydralazine, labetalol, and nifedipine
   -can uptitrate labetalol if additional BP control required
   -patient diuresing this a.m. on metolazone alone; will hold off on
   Lasix boluses for now and follow urine output
   -Holding metoprolol for now due to acute CHF
   -f/u CT [**Doctor First Name 458**] recs: already got carotid ultrasound, will call dental for
   pre-operative evaluation, cardiac cath will be deferred until renal
   function has improved
   -Treat ankle infection as below
   .
   # Acute renal failure/ s/p renal transplant:  Rejection vs. ATN, now
   improving.  U/S of transplanted kidney WNL. Cr  continues to improve
   from 4.1 at peak to 1.9 today.
   -dose prograf by level per renal. Currently at 4mg [**Hospital1 **]
   -f/u prograf level
   -continue Bactrim prophylaxis
   -continue prednisone at 10 mg daily; per renal, will hold off on
   further taper until tacro levels stable
   -[**Hospital1 **] lytes.
   -holding gabapentin
   -f/u renal recs
   .
   # CORONARIES:  The patient has known coronary artery disease s/p CABG
   and PCI.  No current chest pain or EKG changes, although ischemia is
   possible etiology of papillary muscle dysfunction.
   - Continue ASA 325 mg po daily, plavix 75 mg daily, and atorvastatin 40
   mg po daily.
   - Holding metoprolol due to heart failure
   - Will need cath when renal function improved
   .
   # RHYTHM: She is in sinus rhythm on telemetry.
   - Monitor telemetry.
   .
   # Recent septic arthritis of left ankle: Patient will need 6 week
   course of vanc from day of explant. Will need to monitor weekly
   CBC/diff, BUN, Cr, LFTs, vanc trough while on vanc.
   -dose vanc by levels
   -pain control with hydromorphone 2 mg q3h prn.
   -f/u with ortho in [**3-5**] weeks
   -wet to dry dressing changes were ortho recs
   .
   # Anemia:  Hct stable.  Iron studies consistent with deficiency.
   -Continue ferrous sulfate.
   -Active type and screen
   -daily Hct
   # Diabetes: Blood sugars labile in setting of gastroparesis,
   inconsistent PO intake. Was hypoglycemic this a.m. secondary to
   aggressive treatment of hyperglycemic last night.
   -Continue glargine 24 units daily
   -Reglan for gastroparesis with Zofran PRN nausea
   -insulin sliding scale
   .
   # Depression:
   - Continue citalopram and bupropion.
   ICU Care
   Nutrition: renal, diabetic, heart healthy, low sodium diet
   Glycemic Control:  insulin sliding scale
   Lines:
   PICC Line - [**2149-4-2**] 08:49 PM
   Arterial Line - [**2149-4-2**] 10:56 PM
   Cordis/Introducer - [**2149-4-3**] 01:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Pt, mother
   [**Name (NI) 66**] status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per dr [**Last Name (STitle) **]
   nothing to add
   Physical Examination
   per dr [**Last Name (STitle) **]
   nothing to add
   Medical Decision Making
   per dr [**Last Name (STitle) **]
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   Improving with excellent blood pressure control
   on hydralazine and labetalol
   moderate to severe mr - unchanged
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **],MD
   on:[**2149-4-10**] 13:20 ------

2149-04-11 07:13:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -called dental, Panorex ordered. Dental did not see.
   -tacro level 3.7 -maintain prograf dose for now.
   -PT consult- will see in am.
   -Cordis and arterial line pulled.
   -Carotid US: less than 40% stenosis of the bilateral internal carotid
   arteries.
   -call out
   Allergies:
   Codeine
   Nausea/Vomiting
   Amoxicillin
   Nausea/Vomiting
   Blood-Group Specific Substance
   Unknown;
   Adhesive Tape (Topical)
   "tape absorbs i
   Last dose of Antibiotics:
   Vancomycin - [**2149-4-10**] 10:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2149-4-10**] 09:08 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-10**] 09:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-11**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 81 (81 - 91) bpm
   BP: 128/53(72) {92/36(49) - 143/67(86)} mmHg
   RR: 22 (10 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49.9 kg (admission): 58.8 kg
   Height: 67 Inch
                  Total In:
                                                                  1,440 mL
                                                                     60 mL
   PO:
                                                                  1,140 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    685 mL
   Urine:
                                                                  2,950 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,510 mL
                                                                   -625 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///32/
   Physical Examination
   Gen: Drowsy, arousable, NAD.
   Resp: Decreased breath sounds at right base.
   CV: RRR. Normal s1, s2. III/VI holosystolic murmur at apex.
   Abd: +BS. Soft. NT/ND.
   Ext: WWP, able to move extremities. Left leg in brace. No edema.
   Neuro: Answers questions appropriately. Pupils equal and non-reactive.
   Left ptosis.
   Labs / Radiology
   392 K/uL
   8.1 g/dL
   60 mg/dL
   2.1 mg/dL
   32 mEq/L
   4.4 mEq/L
   52 mg/dL
   92 mEq/L
   131 mEq/L
   25.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2149-4-7**]  02:41 PM
                             [**2149-4-8**]  05:30 AM
                             [**2149-4-8**]  05:52 AM
                             [**2149-4-8**]  10:24 PM
                             [**2149-4-9**]  06:00 AM
                             [**2149-4-9**]  06:10 PM
                             [**2149-4-9**]  09:53 PM
                             [**2149-4-10**]  05:47 AM
                             [**2149-4-10**]  01:44 PM
                             [**2149-4-11**]  05:27 AM
   WBC
   5.7
   5.0
   5.2
   7.7
   Hct
   25.9
   23.8
   22.9
   25.1
   Plt
   [**Telephone/Fax (3) 11837**]92
   Cr
   2.9
   2.4
   2.0
   2.0
   1.9
   2.0
   2.1
   TCO2
   31
   Glucose
   169
   164
   383
   123
   429
   62
   112
   60
   Other labs: PT / PTT / INR:12.2/25.1/1.0, CK / CKMB /
   Troponin-T:28//0.06, ALT / AST:122/54, Alk Phos / T Bili:443/0.3,
   Differential-Neuts:73.0 %, Lymph:17.5 %, Mono:4.5 %, Eos:4.8 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:179 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   45 yo woman with pmh of DM1, CAD s/p CABG and PCI, ESRD s/p
   living-related kidney transplant in [**10-31**], and recent hospitalization
   for septic arthritis here with acute renal failure, acute diastolic
   heart failure with newly diagnosed severe MR and pulmonary
   hypertension.
   .
   # Acute Mitral Regurgitation:  The patient presented with worsening
   dyspnea, had crackles on exam, and TTE showing new severe mitral
   regurgitation and pulmonary hypertension
 all c/w acute mitral
   regurgiation. ? If this is ischemic in nature. Swan-Ganz catheter
   measurements initially showing PA htn and elevated wedge pressure,
   consistent with this finding. Had initially been on nitro drip which
   has been dc
d as has lasix gtt with patient now on IV boluses.  Pt
   currently on PO hydralazine, nifedipine, and labetalol for afterload
   reduction.
   -continue hydralazine, labetalol, and nifedipine
   -can uptitrate labetalol if additional BP control required
   -patient diuresing this a.m. on metolazone alone; will hold off on
   Lasix boluses for now and follow urine output
   -Holding metoprolol for now due to acute CHF
   -f/u CT [**Doctor First Name 458**] recs: already got carotid ultrasound, will call dental for
   pre-operative evaluation, cardiac cath will be deferred until renal
   function has improved
   -Treat ankle infection as below
   .
   # Acute renal failure/ s/p renal transplant:  Rejection vs. ATN, now
   improving.  U/S of transplanted kidney WNL. Cr  continues to improve
   from 4.1 at peak to 1.9 today.
   -dose prograf by level per renal. Currently at 4mg [**Hospital1 **]
   -f/u prograf level
   -continue Bactrim prophylaxis
   -continue prednisone at 10 mg daily; per renal, will hold off on
   further taper until tacro levels stable
   -[**Hospital1 **] lytes.
   -holding gabapentin
   -f/u renal recs
   .
   # CORONARIES:  The patient has known coronary artery disease s/p CABG
   and PCI.  No current chest pain or EKG changes, although ischemia is
   possible etiology of papillary muscle dysfunction.
   - Continue ASA 325 mg po daily, plavix 75 mg daily, and atorvastatin 40
   mg po daily.
   - Holding metoprolol due to heart failure
   - Will need cath when renal function improved
   .
   # RHYTHM: She is in sinus rhythm on telemetry.
   - Monitor telemetry.
   .
   # Recent septic arthritis of left ankle: Patient will need 6 week
   course of vanc from day of explant. Will need to monitor weekly
   CBC/diff, BUN, Cr, LFTs, vanc trough while on vanc.
   -dose vanc by levels
   -pain control with hydromorphone 2 mg q3h prn.
   -f/u with ortho in [**3-5**] weeks
   -wet to dry dressing changes were ortho recs
   .
   # Anemia:  Hct stable.  Iron studies consistent with deficiency.
   -Continue ferrous sulfate.
   -Active type and screen
   -daily Hct
   # Diabetes: Blood sugars labile in setting of gastroparesis,
   inconsistent PO intake. Was hypoglycemic this a.m. secondary to
   aggressive treatment of hyperglycemic last night.
   -Continue glargine 24 units daily
   -Reglan for gastroparesis with Zofran PRN nausea
   -insulin sliding scale
   .
   # Depression:
   - Continue citalopram and bupropion.
   ICU Care
   Nutrition: renal, diabetic, heart healthy, low sodium diet
   Glycemic Control:  insulin sliding scale
   Lines:
   PICC Line - [**2149-4-2**] 08:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Pt, mother
   [**Name (NI) 66**] status: Full code
   Disposition: ICU